US07655679B2
138 mg 4-(2-Amino-ethyl)-2-methyl-benzonitrile trifluoro acetate, 210 μl triethylamine and 50 μl Butyraldehyde were dissolved in 5 ml methanol. 150 mg molecular sieves 4 Angström were added and the mixture was stirred at room temperature overnight. Then 21 mg sodium borohydride were added and the mixture was stirred for an additional hour at room temperature. 50 ml ethyl acetate were added, and the reaction was quenched by addition of 0.5 ml water. The reaction mixture was filtered through a pad of celite and MgSO4. The filtrate was evaporated in vacuo to provide 230 mg crude 4-(2-Butylamino-ethyl)-2-methyl-benzonitrile, impurified with salts. This material was used without further purification.

reactant | 4-(2-Amino-ethyl)-2-methyl-benzonitrile trifluoro acetate | 138 mg | FC(C(=O)O)(F)F.NCCC1=CC(=C(C#N)C=C1)C
reactant | triethylamine | 210 μl | C(C)N(CC)CC | C6H15N
reactant | Butyraldehyde | 50 μl | C(CCC)=O | C4H8O
reactant | sodium borohydride | 21 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-Butylamino-ethyl)-2-methyl-benzonitrile | 230 mg | C(CCC)NCCC1=CC(=C(C#N)C=C1)C | C14H20N2
